* NGSPICE file created from inverter.ext - technology: sky130A

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_ef_sc_hd__decap_12 abstract view
.subckt sky130_ef_sc_hd__decap_12 VPWR VGND VPB VNB
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_6 abstract view
.subckt sky130_fd_sc_hd__decap_6 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_1 abstract view
.subckt sky130_fd_sc_hd__clkbuf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__inv_2 abstract view
.subckt sky130_fd_sc_hd__inv_2 A VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_2 abstract view
.subckt sky130_fd_sc_hd__buf_2 A VGND VNB VPB VPWR X
.ends

.subckt inverter VGND VPWR in out
XTAP_TAPCELL_ROW_12_32 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_3_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_0_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_9_27 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_10_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_EDGE_ROW_12_Left_25 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_12_Right_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_0_Left_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_9_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_6_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_6_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_6_Right_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_9_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_4_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XTAP_TAPCELL_ROW_2_27 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_EDGE_ROW_4_Left_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_10_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XPHY_EDGE_ROW_7_Left_20 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_7_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_10_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_1_Right_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_10_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_1_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_11_Left_24 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_4_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_5_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_1_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_5_Right_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_7_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_4_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_1_27 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_10_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_TAPCELL_ROW_10_31 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_EDGE_ROW_11_Right_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_7_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_4_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_1_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_7_27 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_3_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_3_Left_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput1 in VGND VGND VPWR VPWR net1 sky130_fd_sc_hd__clkbuf_1
XFILLER_0_7_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_EDGE_ROW_9_Right_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_4_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_TAPCELL_ROW_0_26 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_EDGE_ROW_0_Right_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_2_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_0_12_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_1_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_8_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_EDGE_ROW_10_Left_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_4_Right_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_11_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_TAPCELL_ROW_6_29 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_10_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_11_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_2_Left_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_11_27 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_2_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_10_Right_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_5_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_8_Right_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_2_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_0_ net1 VGND VGND VPWR VPWR net2 sky130_fd_sc_hd__inv_2
XFILLER_0_11_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_8_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_5_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_8_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_2_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_8_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_5_27 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_6_Left_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_8_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_9_Left_22 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_5_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_12_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_0_2_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_8_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_0_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_EDGE_ROW_3_Right_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_4_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_6_6 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_1_Left_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_4_28 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_EDGE_ROW_7_Right_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_12_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_12_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_2_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xoutput2 net2 VGND VGND VPWR VPWR out sky130_fd_sc_hd__buf_2
XPHY_EDGE_ROW_5_Left_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_0_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_8_Left_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_12_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_3_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_0_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_TAPCELL_ROW_8_30 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_3_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_0_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_9_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_2_Right_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_12_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_3_27 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_11_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_0_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_9_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
.ends

